Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17],1.31184248004
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],-5.25368454019
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11],4.64114104549
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.563969372180001
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],2.1890873739
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3][O:4][C:5][H:6],8.16760366823
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-3.44298230541
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:3],5.1290320142
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]([C:2]([H:3])[C:5]([H:4])([H:6])[H:12])[H:8].[O:7]=[C:9]([H:10])[H:11],0.53887858352
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]1[H:7]>>[H:1][O:2][C:3]([H:4])[C:6](=[O:5])[H:7],-1.47663903944
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14],4.66362373207
[O:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10][H:11]>>[O:1][O:2][C:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11],-0.7694749826010001
[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:10]([H:11])[H:12].[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:13],2.04952651074
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.65352237165
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[O:10][H:11],2.2491402411
[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.620443981359999
[C:1]=[C:2]([C:3]([O:4])=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[C:3](=[O:4])=[O:5],-1.33228423534
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.56952193209
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-5.156424744190001
[H:1][O:2][C:3]#[C:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]#[C:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.06958254773
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6],5.47927669266
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.41631922809
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-1.55128762371
[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8],-3.18562832379
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.23921463437
[H:1][C:2]#[C:3][C:4][O:5][C:6]#[C:7][H:8]>>[C:3]#[C:4][O:5][C:6]#[C:7][H:8].[H:1][C:2],8.1873495009
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],1.06422707263
[O:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.662723662758
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:12](/[H:13])[C:15]([C:7]([H:8])([C:9]([H:10])[H:11])[H:14])([H:16])[H:17],0.0679709897495
